US05284840
Step 2: 17-Ethyl-1,14,16-trihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-16-methyl-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10-trione
A solution of 0.086 g (0.082 mmole) of 17-ethyl-14-t-butyldimethylsilyloxy-1,16-dihydroxy-12-[2'-(4"-t-butyldimethylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-16-methyl-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10-trione in 2 mL of a solution of 1:9 48% aqueous HF-acetonitrile was stirred at room temperature for 8 h. The reaction was quenched by addition of 2 mL of ethoxytrimethylsilane and the solution was concentrated to dryness under vacuum. The residue was purified by flash chromatography (2×20 cm silica gel) using 25% acetone-hexane to afford 0.051 g (77%) of the title compound as a white solid.

reactant | 17-ethyl-14-t-butyldimethylsilyloxy-1,16-dihydroxy-12-[2'-(4"-t-butyldimethylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-16-methyl-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10-trione | 0.082 mmole, 0.086 g | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C)(C)C(C)(C)C)OC)C)C)O[Si](C)(C)C(C)(C)C)(C)O | C56H101NO12Si2
solvent | acetonitrile | C(C)#N | C2H3N
product | 17-Ethyl-1,14,16-trihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-16-methyl-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10-trione | 0.051 g, 77% | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)(C)O | C44H73NO12
